US04628057
(3R)-2-[(4-aminobenzylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid
(3R)-2-[(4-(Formylamino)benzylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid (1.46 g) is dissolved in ethanol (34 ml) and thereto is added thioglycolic acid (0.04 ml) and is further added dropwise 6N HCl (34 ml). The mixture is stirred under argon stream for 2.5 hours and then distilled under reduced pressure to remove the solvent. The residue is purified by silica gel column chromatography (solvent, chloroform:methanol:acetic acid=94:5:1-20:10:1) to give the title compound (0.52 g), as pale yellow powder.

reactant | (3R)-2-[(4-(Formylamino)benzylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid | 1.46 g | C(=O)NC1=CC=C(CSC(=S)N2CC=3NC4=CC=CC=C4C3C[C@@H]2C(=O)O)C=C1 | C21H19N3O3S2
reactant | thioglycolic acid | 0.04 ml | C(CS)(=O)O | C2H4O2S
reactant | HCl | 6N, 34 ml | Cl | ClH
solvent | ethanol | 34 ml | C(C)O | C2H6O
product | (3R)-2-[(4-aminobenzylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid | 0.52 g | NC1=CC=C(CSC(=S)N2CC=3NC4=CC=CC=C4C3C[C@@H]2C(=O)O)C=C1 | C20H19N3O2S2
